US05366972
c) 3-Amino-2-bromo-6-methoxy-4-methylpyridine
Bromine (4.8 g) was added in one portion to a mixture of 5-amino-2-methoxy-4-methylpyridine (3.9 g) in acetic acid (25 ml) and sodium acetate (4.0 g). The resulting mixture was stirred for 20 min. and then added to a solution of sodium hydroxide (15 g) in water (200 ml). The product was extracted with chloroform, dried (anhydrous magnesium sulfate), concentrated, and purified on a silica gel column (methylene chloride/ethyl acetate, 19:1→4:1) to give 4.5 g of the title compound, suitable for use in the next reaction.

reactant | Bromine | 4.8 g | BrBr | Br2
reactant | 5-amino-2-methoxy-4-methylpyridine | 3.9 g | NC=1C(=CC(=NC1)OC)C | C7H10N2O
reactant | sodium hydroxide | 15 g | [OH-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | sodium acetate | 4.0 g | C(C)(=O)[O-].[Na+]
solvent | water | 200 ml | O | H2O
product | 3-Amino-2-bromo-6-methoxy-4-methylpyridine | 4.5 g | NC=1C(=NC(=CC1C)OC)Br | C7H9BrN2O
